2131-08-03 10:41:00 Physician Attending Progress Note
Chief Complaint: Fever, renal failure, altered mental status, diastolic
   CHF.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient received IV hydralazine for BP control, but did not respond.
   Then started on IV TNG. Patient  now taking his oral antihypertensives.
   Temp to 100.6 last night. Additional blood cultures sent.
   Alert this AM, interacting with staff appropriately.
   Oxygen saturations in mid-90's on supplemental oxygen via nasal
   cannula.
   Blood cultures positive for gram + cocci in clusters; identification
   pending.
   24 Hour Events:
 MULTI LUMEN - START [**2131-8-2**] 08:35 PM
 BLOOD CULTURED - At [**2131-8-2**] 10:00 PM
 FEVER - 101.9
F - [**2131-8-2**] 05:00 PM
   History obtained from Patient
   Allergies:
   Tetanus
   Diphther Toxoid Adult
   Hives;
   Aggrenox (Oral) (Aspirin/Dipyridamole)
   Diarrhea;
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-8-3**] 08:00 AM
   Vancomycin - [**2131-8-3**] 09:59 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Neurontin, simvastatin, allopurinol, ASA, plavix, lopressor, insulin,
   heparin sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-3**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.2
   HR: 70 (56 - 77) bpm
   BP: 123/45(62) {116/34(44) - 181/58(88)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   CVP: 19 (8 - 19)mmHg
   Total In:
                                                                  1,797 mL
                                                                  1,176 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  1,137 mL
                                                                  1,176 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    890 mL
   Urine:
                                                                  1,045 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    752 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   Mild erythema right lower leg
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   165 K/uL
   158 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.8 mEq/L
   59 mg/dL
   105 mEq/L
   136 mEq/L
   24.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2131-8-2**]  10:02 AM
                             [**2131-8-2**]  02:45 PM
                             [**2131-8-3**]  04:20 AM
   WBC
   14.0
   Hct
   24.8
   Plt
   165
   Cr
   2.4
   2.3
   Glucose
   [**Telephone/Fax (3) 3868**]
   Other labs: PT / PTT / INR:14.3/32.3/1.2, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Microbiology: Blood culture - 2 bottles with gram + cocci in clusters
   Urine: pending
   Assessment and Plan
   1) Fever
   2) Altered mental status
   3) CHF - chronic, diastolic
   4) Renal failure
   5) Anemia
   Low grade fever now. Patient on antibiotics. Blood cultures positive
   for gram postive cocci in clusters - not yet identified. Concern about
   apparent foreign body in the bladder. Continue on present antibiotics
   pending further information on the orgnanisms in the blood. Consider
   urology consult re: cystoscopy to evaulate foreign body in the bladder.
   Mental status much improved with initial treatment of infection,
   consistent with toxic/metabolic encephalopathy.
   Renal function improving with volume resuscitation. Electrolytes
   acceptable. Need to avoid extremes of BP.
   CVP 9-10. No dyspnea.
   Hct down with volume resuscitation. No obvious bleeding. No need for
   transfusion now per protocol.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:  right subclavian, right EJ
   Multi Lumen - [**2131-8-2**] 08:35 PM
   16 Gauge - [**2131-8-2**] 08:36 PM
   Prophylaxis: sc heparin for DVT; no need for stress ulcer prophylaxis.
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2131-08-04 13:05:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79M with h/o CVA, CHF, CAD, present with high fever:
   24 Hour Events:
 ULTRASOUND - At [**2131-8-3**] 01:00 PM
   LENIS
   *urology removed the forerign object
   *had LENIs; no dvt
   *no more fevers, no new complaints
   *TTE ordered given MRSA in urine in the past and now GPC bacteremia,
   not done yet
   *this AM had sharp chest pain, new onset
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetanus
   Diphther Toxoid Adult
   Hives;
   Aggrenox (Oral) (Aspirin/Dipyridamole)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2131-8-3**] 09:59 AM
   Ceftriaxone - [**2131-8-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   simvastatin, gabapendtin, [**Last Name (LF) 3884**], [**First Name3 (LF) **], plavix, lopressor, sqh, riss
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, mild this am
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-8-4**] 01:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 69 (61 - 73) bpm
   BP: 162/54(83) {93/36(57) - 162/65(83)} mmHg
   RR: 18 (1 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   CVP: 17 (12 - 18)mmHg
   Total In:
                                                                  1,564 mL
                                                                    456 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  1,564 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                  1,420 mL
   Urine:
                                                                  1,855 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -291 mL
                                                                   -964 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, mild, Wheezes : mild at bases) Chest palpation reveals point
   tenderness on left costo-chondral junction, and over left lateral rib
   cage. This reproduces the pain he complained aout this AM.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   161 K/uL
   125 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.5 mEq/L
   54 mg/dL
   106 mEq/L
   138 mEq/L
   24.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2131-8-2**]  10:02 AM
                             [**2131-8-2**]  02:45 PM
                             [**2131-8-3**]  04:20 AM
                             [**2131-8-4**]  05:48 AM
   WBC
   14.0
   10.4
   Hct
   24.8
   24.0
   Plt
   165
   161
   Cr
   2.4
   2.3
   1.9
   Glucose
   [**Telephone/Fax (3) 3885**]25
   Other labs: PT / PTT / INR:12.5/28.3/1.1, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.1 mg/dL
   Imaging: cxr: unchanged. No infiltrates or effusions
   Microbiology: gpc in bcx, no speciation yet
   ECG: ([**6-12**] cp): old Q wave in III/F
   Assessment and Plan
   1. fever - resolved
   2. leukocytosis - resolved
   3. GPC bacteremia -
   4. foreign object in bladder
   5. chest pain this am
   6. Renal failure
   79M with cad, pvd, foreign body in the bladder, presents with high
   fevers and leukocytosis, with GPC bacteremia. No other source of
   infection. Patient improved with IV hydration and antibiotics (CTX and
   vancomycin). Also acute renal failure is resolving. Chest pain today
   reproducible on exam, unlikley cardiac, although very high risk of
   recurrent ischemia:
   -continue vancomycin and ctx for presumed uti and gcp bacteremia
   -follow-up cultures, speciation
   -follow enzymes to rule out for MI; will obtain another EKG if any new
   sx; cxr unchanged
   -call out to the floor today
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2131-8-2**] 08:35 PM
   16 Gauge - [**2131-8-2**] 08:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2131-08-05 07:42:00 Physician Resident Progress Note
Chief Complaint: Fever
   24 Hour Events:
   Allergies:
   Tetanus
   Diphther Toxoid Adult
   Hives;
   Aggrenox (Oral) (Aspirin/Dipyridamole)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2131-8-3**] 09:59 AM
   Ceftriaxone - [**2131-8-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-8-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-5**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 74 (55 - 80) bpm
   BP: 122/29(54) {102/29(51) - 177/64(90)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
                  Total In:
                                                                  1,236 mL
                                                                    200 mL
   PO:
                                                                  1,140 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    710 mL
   Urine:
                                                                  2,900 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,664 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   161 K/uL
   7.9 g/dL
   83 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.6 mEq/L
   43 mg/dL
   108 mEq/L
   138 mEq/L
   22.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2131-8-2**]  10:02 AM
                             [**2131-8-2**]  02:45 PM
                             [**2131-8-3**]  04:20 AM
                             [**2131-8-4**]  05:48 AM
                             [**2131-8-5**]  03:08 AM
   WBC
   14.0
   10.4
   7.2
   Hct
   24.8
   24.0
   22.4
   Plt
   165
   161
   161
   Cr
   2.4
   2.3
   1.9
   1.5
   Glucose
   [**Telephone/Fax (3) 3885**]25
   83
   Other labs: PT / PTT / INR:12.5/28.3/1.1, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assesment: This is a 79 year-old male with a history of diabetes,
   peripheral vascular disease, stroke, CAD, chronic renal failure who
   presents with hyperthermia.
   .
   Plan:
   #Fever
 Patient is at risk for hyperthermia given age, cardiovascular
   disease, and use of diuretics.  Initial presentation did not qualify
   for heat stroke (core body temperature did not reach 40.5 centigrade).
   Pt has now been found to have multiple possible sources for fevers and
   change in mental status: UTI, bacteremia, foreign body in bladder.
   - FB removed from bladder, copper wires noted, unsure of how got there
   per pt. , will f/up cultures
   - Pt initially to start on Levaquin, but before dosed was switched to
   Ceftriaxone for better UTI coverage.
   - Vancomycin added this a.m. for presumed MRSA bacteremia.
   - Will continue IV fluid hydration PRN, CIS and con
t Vanco and
   Ceftriaxone
   -checking TTE today  given new positive blood culture of gram positive
   cocci in clusters
   .
   #Altered mental status: much improved now, likely secondary to acute
   infection vs. initial heat stroke concerns. Dehydration was  also
   likely  a contributing factor.  Continue to monitor
   .
   #Hypertension: likely uncontrolled at admission due to recent holding
   of anti-hypertensives. Stabilizing, will monitor w/telemetry and
   continue daily Lopressor
   # Chest pain
 was reproducible on exam at left edge sternum and
   lateral left rib cage with clear point tenderness. EKG without any
   changes from prior which showed same subtle ST changes and 1^st degree
   AV block, rate 60s.  Cycled enzymes and will follow up this afternoon
   although low suspicion
   # Acute on chronic renal failure - Patient had hyperkalemia on
   admission, likely secondary to chronic renal failure
now resolved
   Acute renal failure likely secondary to dehydration is also resolving
   per Cr downward trend.  [**Month (only) 60**] have component of ATN.
   - monitor daily lytes
   - Monitoring urine output with goal >30cc/hr average
    - Avoid nephrotoxins, hold valsartan and Lasix for now
   - Renally dose medications
   - Continue darbepoietin, doxercalciferol
   .
   #RLE edema/erythema: pt has hx of LE edema, R>L, s/p venous graft
   harvesting in both legs. Unsure of how long erythema has been present.
   Tender to palpation. Last LE U/S in [**9-9**] negative for DVT.
   - LENI for RLE negative for DVT
   .
   # Chronic pain - continue gabapentin
   .
   # CAD -  will plan to continue patient
s clopidogrel, aspirin,
   simvastatin, metoprolol,
   .
   # Gout - continue allopurinol, Holding Tramadol given ARF.
   .
   # Diabetes - Insulin 40 Units in AM, 30 Units in PM and sliding scale
   .
   # FEN:  Low-sodium, heart-healthy diabetic diet, IV fluids as above.
   .
   # Access
 R EJ (will be pulled today), R SC Triple lumen central line
   .
   # PPx:  Heparin SC
   .
   # Code:  Full code
   .
   # Dispo:  ICU for now. Possibly called out to floor later today if
   pressures and mental status remain stable.
   .
   # Comm:  With patient and wife
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-8-2**] 08:35 PM
   16 Gauge - [**2131-8-2**] 08:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: